US07714017B2
Synthesis of 4-Hydroxy-3H-benzooxazol-2-one, K-72.
A mixture of 2-amino-benzene-1,3-diol (K-68, 2.03 g, 16.2 mmole) and 1,1′-carbonyldiimidazole (2.63 g, 16.2 mmole) in THF (200 ml) was refluxed over night. After removal of THF under vacuum, residue was dissolved in ethyl acetate and washed with diluted HCl aq., water, brine and dried over sodium sulfate. After removal of solvent, solid was washed with ether to give 1.9 g of compound K-72. 1H-NMR (500 MHz, DMSO-d6).

reactant | 2-amino-benzene-1,3-diol | NC1=C(C=CC=C1O)O | C6H7NO2
reactant | 1,1′-carbonyldiimidazole | 16.2 mmole, 2.63 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 4-Hydroxy-3H-benzooxazol-2-one | 1.9 g | OC1=CC=CC2=C1NC(O2)=O | C7H5NO3
